US07288538B2
To a solution of 3-bromo-2,6-dimethylphenylamine(0.27 g, 1.35 mmol) dissolved in toluene (5.4 mL) and pyrrolidine (0.56 mL, 6.8 mmol) was added sodium t-butoxide (0.39 g, 4.0 mmol). The suspension was deoxygenated for approximately 10 minutes by passing a stream of nitrogen through the solvent. Solid tris(dibenzilideneacetone)dipalladium(0) (10 mg) and rac-2,2′Bis(diphenylphosphino)-1,1′binaphthyl (25 mg) were combined and added in one portion. Nitrogen bubbling continued for an additional 2 minutes before heat was applied (100° C. overnight). The reaction mixture was cooled to room temperature and diluted with ethyl acetate and HClaq. (2N). The aqueous layer was adjusted basic with sodium bicarbonate solution and re-extracted with ethyl acetate. The organic layer was dried over sodium sulfate, decanted and concentrated under reduced pressure to give to give the desired 2,6-dimethyl-3-pyrrolidin-1-ylphenylamine as an amber oil.

reactant | 3-bromo-2,6-dimethylphenylamine | 1.35 mmol, 0.27 g | BrC=1C(=C(C(=CC1)C)N)C | C8H10BrN
reactant | pyrrolidine | 6.8 mmol, 0.56 mL | N1CCCC1 | C4H9N
reactant | sodium t-butoxide | 4.0 mmol, 0.39 g | CC(C)([O-])C.[Na+]
solvent | toluene | 5.4 mL | C1(=CC=CC=C1)C | C7H8
product | 2,6-dimethyl-3-pyrrolidin-1-ylphenylamine | CC1=C(C(=CC=C1N1CCCC1)C)N | C12H18N2
